US05102890
An oily suspension (50% by weight; 0.96 g) of sodium hydride is added in the course of 15 minutes to a suspension of 3-hydroxy-2-(7-methoxy-1,8-naphthyridin-2-yl)-1-isoindolinone (6.15 g) in anhydrous dimethylformamide (50 cc) while the temperature is maintained in the region of 0° C., the mixture then being stirred again for 30 minutes at 0° C. Diethyl chlorophosphate (2.9 cc) is then added dropwise in the course of 30 minutes while the temperature is maintained in the region of 0° C. A solution of sodium 4-acetylaminobutanoate, prepared from 4-acetamidobutyric acid (2.9 g) in anhydrous dimethylformamide (30 cc) and an oily suspension (50% by weight; 0.96 g) of sodium hydride, is added at a temperature in the region of 0° C. to the solution obtained. The mixture is stirred for 1 hour at 0° C., then 20 hours at a temperature in the region of 20° C., and finally 4 hours at 80° C. The reaction mixture is poured into water (400 cc) and extracted with methylene chloride (3×200 cc). The organic extracts are combined and washed with water, dried and concentrated to dryness under reduced pressure (2.7 kPa). The residue obtained is purified by chromatography on silica (0.063-0.2 mm; 350 g) contained in a column 5 cm in diameter [eluant: methylene chloride/methanol (99:1 by volume)], collecting 100-cc fractions. Fractions 23 to 39 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C.; the residue is recrystallized in acetonitrile. 2-(7-Methoxy-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl 4-acetylaminobutyrate (2 g), m.p. 190° C., is thereby obtained.

reactant | sodium hydride | 0.96 g | [H-].[Na+]
reactant | 3-hydroxy-2-(7-methoxy-1,8-naphthyridin-2-yl)-1-isoindolinone | 6.15 g | OC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)OC | C17H13N3O3
reactant | Diethyl chlorophosphate | 2.9 cc | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | sodium 4-acetylaminobutanoate | C(C)(=O)NCCCC(=O)[O-].[Na+]
reactant | 4-acetamidobutyric acid | 2.9 g | C(C)(=O)NCCCC(=O)O | C6H11NO3
reactant | sodium hydride | 0.96 g | [H-].[Na+]
solvent | dimethylformamide | 50 cc | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 cc | CN(C=O)C | C3H7NO
solvent | water | 400 cc | O | H2O
product | 2-(7-Methoxy-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl 4-acetylaminobutyrate | 2 g | C(C)(=O)NCCCC(=O)OC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)OC | C23H22N4O5
